US04183909
1.50 g (2.30 mmoles) of BOC-Trp-Nva-Asp-D-Phg-NH2 are treated with 20 ml of 4 n hydrochloric acid in dioxane in the presence of 0.77 ml (11 moles) of mercaptoethanol. After 30 minutes the suspension is evaporated in vacuo, the solid residue is admixed with ether, and the suspension is filtered. 1.34 g (99.0 %) of H-Trp-Nva-Asp-D-Phg-NH2.HCl are obtained; m.p.: 216° C. (decomposition), Rf7 :0.30, [α]D :-53.3° (c: 1.0, in dimethyl formamide).

reactant | BOC-Trp-Nva-Asp-D-Phg-NH2 | 2.30 mmoles, 1.50 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N)C(=O)OC(C)(C)C | C33H42N6O8
reactant | hydrochloric acid | Cl | ClH
reactant | mercaptoethanol | 11 moles, 0.77 ml | SC(C)O | C2H6OS
solvent | dioxane | O1CCOCC1 | C4H8O2
product | H-Trp-Nva-Asp-D-Phg-NH2.HCl | 1.34 g, 99.0 % | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N.Cl | InChI=1S/C28H34N6O6.ClH/c1-2-8-21(32-26(38)19(29)13-17-15-31-20-12-7-6-11-18(17)20)27(39)33-22(14-23(35)36)28(40)34-24(25(30)37)16-9-4-3-5-10-16;/h3-7,9-12,15,19,21-22,24,31H,2,8,13-14,29H2,1H3,(H2,30,37)(H,32,38)(H,33,39)(H,34,40)(H,35,36);1H/t19-,21-,22-,24+;/m0./s1
